US05049477
Step 5: Synthesis of 5-t-Butyl-4-(4-aminophenoxymethyl)-2-(4-n-hexadecylcarbamoyl-2-nitrophenyl)-4-isooxazolin-3-one
5.8 g of 5-t-butyl-4-chloromethyl-2-(4-n-hexadecylcarbamoyl-2-nitrophenyl)-4-isooxazolin-3-one and 1.4 g of potassium carbonate were mixed with 40 ml of acetone, and thereto were added 0.4 g of sodium iodide and 0.4 ml of polyethylene glycol. Thereto, 1.7 g of 4-acetylaminophenol was further added, and the resulting mixture was heated under reflux for 5 hours. After the completion of the reaction, crystals were precipitated by addition of diluted hydrochloric acid, and then filtered off. To the crystals taken out were added 40 ml of ethanol and 20 ml of concentrated hydrochloric acid, and the mixture was heated under reflux for 4 hours. After cooling, crystals separated out on stirring. They were filtered off, and washed successively with acetonitrile and acetone. Yield: 5.5 g, Percent yield: 79.4%, Melting point: 220° C. or higher.

reactant | 5-t-butyl-4-chloromethyl-2-(4-n-hexadecylcarbamoyl-2-nitrophenyl)-4-isooxazolin-3-one | 5.8 g | C(C)(C)(C)C1=C(C(N(O1)C1=C(C=C(C=C1)C(NCCCCCCCCCCCCCCCC)=O)[N+](=O)[O-])=O)CCl | C31H48ClN3O5
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.4 g | [I-].[Na+]
reactant | 4-acetylaminophenol | 1.7 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 5-t-Butyl-4-(4-aminophenoxymethyl)-2-(4-n-hexadecylcarbamoyl-2-nitrophenyl)-4-isooxazolin-3-one | yield: 79.4% | C(C)(C)(C)C1=C(C(N(O1)C1=C(C=C(C=C1)C(NCCCCCCCCCCCCCCCC)=O)[N+](=O)[O-])=O)COC1=CC=C(C=C1)N | C37H54N4O6
